US05310634
(1) 3-(Methoxycarbonylamino)nitrobenzene
A mixture of 10 g of 3-nitroaniline and 100 ml of N,N-dimethylacetamide was stirred under ice cooling and 8.2 g of methyl chloroformate was added dropwise to the mixture. After stirring the mixture for 30 minutes, 300 ml of water was added to the reaction mixture and then the reaction mixture was neutralized by the addition of sodium bicarbonate to deposit crystals, which were recovered by filtration, washed with water, and dried. The amount of the product was 13.1 g (yield: 93%).

reactant | 3-nitroaniline | 10 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
reactant | methyl chloroformate | 8.2 g | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 ml | O | H2O
product | 3-(Methoxycarbonylamino)nitrobenzene | yield: 93% | COC(=O)NC=1C=C(C=CC1)[N+](=O)[O-] | C8H8N2O4
